US09120749B2
tert-Butyl trans-4-[6-(3-chloro-5-fluoro-4-hydroxyphenyl)-3-(cyclopropanecarbonyl)quinolin-4-ylamino]cyclohexylcarbamate
Following general procedure D, tert-butyl trans-4-[6-bromo-3-(cyclopropanecarbonyl)quinoline-4-ylamino]cyclohexylcarbamate (49 mg, 0.100 mmol) was reacted with 2-chloro-6-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (130 mg, 0.478 mmol) to afford the desired product (20 mg, 36%) as an off white solid: ESI MS m/z 554 [C30H33ClFN3O4+H]+.

reactant | tert-butyl trans-4-[6-bromo-3-(cyclopropanecarbonyl)quinoline-4-ylamino]cyclohexylcarbamate | 0.100 mmol, 49 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)N[C@@H]1CC[C@H](CC1)NC(OC(C)(C)C)=O | C24H30BrN3O3
reactant | 2-chloro-6-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.478 mmol, 130 mg | ClC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)F)O | C12H15BClFO3
product | tert-Butyl trans-4-[6-(3-chloro-5-fluoro-4-hydroxyphenyl)-3-(cyclopropanecarbonyl)quinolin-4-ylamino]cyclohexylcarbamate | 20 mg, 36% | ClC=1C=C(C=C(C1O)F)C=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)N[C@@H]1CC[C@H](CC1)NC(OC(C)(C)C)=O | C30H33ClFN3O4
